US07968538B2
N-(1-(5-Chloro-2-methoxyphenyl)ethyl)-5-fluoro-2-(methylsulfonyl)benzenamine
2,4-Difluoro-1-(methylsulfonyl)benzene (0.55 g, 2.9 mmol), 1-(5-chloro-2-methoxyphenyl)ethanamine (0.57 g, 2.9 mmol) and N,N-diisopropylethylamine (0.77 g, 5.9 mmol) were stirred at 65° C. in dry acetonitrile (20 mL) for 24 h. The solvent was evaporated and the residue was dissolved in dichloromethane and washed with water. The dichloromethane was evaporated and purified by silica chromatography in 20% ethyl acetate in hexanes to collect the title compound (0.36 mg, 35% yield). 1H NMR (400 MHz, CDCl3): δ 7.74 (q, 1H), 7.18 (m, 2H), 6.84 (d, 1H), 6.79 (d, 1H), 6.42 (t, 1H), 6.17 (d, 1H), 4.78 (m, 1H), 3.91 (s, 3H), 3.08 (s, 3H), 1.52 (d, 3H).

reactant | 2,4-Difluoro-1-(methylsulfonyl)benzene | 2.9 mmol, 0.55 g | FC1=C(C=CC(=C1)F)S(=O)(=O)C | C7H6F2O2S
reactant | 1-(5-chloro-2-methoxyphenyl)ethanamine | 2.9 mmol, 0.57 g | ClC=1C=CC(=C(C1)C(C)N)OC | C9H12ClNO
reactant | N,N-diisopropylethylamine | 5.9 mmol, 0.77 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | N-(1-(5-Chloro-2-methoxyphenyl)ethyl)-5-fluoro-2-(methylsulfonyl)benzenamine | 0.36 mg, 35% yield | ClC=1C=CC(=C(C1)C(C)NC1=C(C=CC(=C1)F)S(=O)(=O)C)OC | C16H17ClFNO3S
